US05698551
In a 100 ml round bottom flask equipped with magnetically stirring, thermometer, reflux condenser and addition funnel, 6,11-dihydro-5H-dibenz[b,e]azepine (1.0 g, 5,1 mmol, prepared in a similar way as described in Coll. Czech. Chem. Commun., 23, 1958, 1330) was dissolved in dry toluene (25 ml). 3-Chloropropionyl chloride (0.78 g, 6,1 mmol) was added slowly. When addition was complete, the reaction mixture was heated at 95° C. for 30 minutes and then allowed to cool to room temperature. With stirring, 0.2N sodium hydroxide (2.5 ml) was added. More toluene (50 ml) was added and the phases were separated. The organic phase was washed with 0.2N sodium hydroxide (10 ml) until pH>10, and then with water (3×10 ml) and brine (10 ml). After drying (MgSO4), the solvent was evaporated in vacuo affording 3-chloro-1-(6,11-dihydro-5H-dibenz[b,e]azepin-5-yl)-1-propanone as an oil which was obtained in quantitative yield and used for further reactions without purification.

reactant | 6,11-dihydro-5H-dibenz[b,e]azepine | C1=CC=CC=2NCC3=C(CC21)C=CC=C3 | C14H13N
reactant | 3-Chloropropionyl chloride | 6,1 mmol, 0.78 g | ClCCC(=O)Cl | C3H4Cl2O
reactant | sodium hydroxide | 0.2N, 2.5 ml | [OH-].[Na+]
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 3-chloro-1-(6,11-dihydro-5H-dibenz[b,e]azepin-5-yl)-1-propanone | quantitative yield | ClCCC(=O)N1C2=C(CC3=C(C1)C=CC=C3)C=CC=C2 | C17H16ClNO
